* C:\users\segundomolinaabeniacar\My Documents\Circuitos2\TPdisenio.asc
Q1 N010 N015 N017 0 NPN
Q2 N006 N012 N018 0 NPN
Q3 N006 N006 N005 0 PNP
Q4 N010 N006 N004 0 PNP
R1 N017 N021 22
R2 N018 N021 22
R3 N001 N004 22
R4 N001 N005 22
Q5 N021 N027 N029 0 NPN
R5 N027 N026 4.7k
R6 N026 0 4.7k
R7 N029 N031 470
R8 N015 0 22k
V1 N001 0 40
V2 0 N031 40
R9 N012 N019 1k
C1 N015 N014 1µ
V3 N014 0 SINE(0 1v 1k 0)
Q6 N002 N010 N009 0 PNP
R10 N001 N009 22
Q7 N002 N016 N023 0 NPN
R11 N002 N016 220
R12 N016 N020 220
R13 N020 N023 220
Q8 N023 N027 N030 0 NPN
R14 N030 N031 22
D2 N011 N002 1N750
D3 N023 N022 1N750
R15 N011 N022 220
D4 N002 N003 D
D5 N028 N023 D
Q9 N001 N003 N007 0 2N3055
Q10 N007 N011 N013 0 2N3055
Q11 N031 N028 N024 0 D45H11
Q12 N024 N022 N013 0 D45H11
R16 N013 0 8
V4 N008 0 20
V5 0 N025 20
R17 N013 N012 22k
C2 N019 0 1µ
D6 N008 N007 D
D7 N024 N025 D
.model D D
.lib C:\users\segundomolinaabeniacar\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\segundomolinaabeniacar\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m
.backanno
.end
